US06080862
(+) (1S, 2R, 3S)-3-[2-(2-Hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid ethylene diamine salt (2:1) (Compound)
A toluene solution of (+)(1S,2R,3S)]-3-[2-(2-hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylendioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid (868.8 g @ 11.2% wt/wt, 192.5 mmol) was concentrated under reduced pressure to a volume of approximately 200 mL. Distillation was discontinued and 2-propanol (500 mL) added to the concentrate. The organic solution was concentrated again under reduced pressure to a volume of approximately 200 mL. Distillation was discontinued and 2-propanol (500 mL) added to the concentrate. The resulting solution in 2-propanol was allowed to stir at ambient temperature for approximately 15 minutes to obtain a homogeneous mixture then diluted with an additional 1000 mL of 2-propanol. The resulting solution was heated to approximately 60° C. over a period of 15-20 minutes under a gentle purge of nitrogen. Heating was discontinued and ethylene diamine (11.6 g, 99.5+%, 192.5 mmol) was added. The reaction mixture was cooled to 30-35° C. over a period of 4 hours. As the solution cooled to 57° C., precipitation of the title compound occurred. The resulting slurry was stirred at ambient temperature for approximately 12 hours then cooled to 0° C. an additional 3 hours before isolation of the title compound via filtration. The product was washed with 3 portions of 2-propanol (300 mL) followed by hexane's (600 mL) chilled to 0-5° C. The product was dried in the vacuum oven for approximately 16 hours at 20-25° C. to afford 91.6 (87%) of the title compound.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 3-[2-(2-hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylendioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid | 192.5 mmol, 868.8 g | OCCOC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | C29H30O8
reactant | ethylene diamine | 192.5 mmol, 11.6 g | C(CN)N | C2H8N2
solvent | 2-propanol | 1000 mL | CC(C)O | C3H8O
product | (+) (1S, 2R, 3S)-3-[2-(2-Hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid ethylene diamine salt | C(CN)N.OCCOC1=C(C=CC(=C1)OC)[C@H]1[C@@H]([C@H](C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | InChI=1S/C29H30O8.C2H8N2/c1-3-11-34-19-6-7-20-22(14-19)27(21-8-5-18(33-2)15-24(21)35-12-10-30)28(29(31)32)26(20)17-4-9-23-25(13-17)37-16-36-23;3-1-2-4/h4-9,13-15,26-28,30H,3,10-12,16H2,1-2H3,(H,31,32);1-4H2/t26-,27+,28+;/m0./s1
